US08541457B2
Synthesis of 2-(Cyclopentanecarbonylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use cyclopentanecarbonyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 38% yield; 1H NMR (CDCl3, 300 MHz) δ 9.56 (s, br, 1H), 7.35-7.24 (m, 5H), 5.92 (s, br, 1H), 4.56 (d, J=5.7 Hz, 2H), 2.81-2.69 (m, 1H), 2.62 (s, 3H), 1.97-1.72 (m, 8H); MS (ES+) m/z 344.2 (M+1).

reactant | cyclopentanecarbonyl chloride | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-(Cyclopentanecarbonylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide | 38% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(=O)C1CCCC1)C | C18H21N3O2S
